US09302989B2
N-{3-oxo-3-[4-(pyridin-2-yl)piperazin-1-yl]propyl}-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 1C, substituting 1-(pyridin-2-yl)piperazine for 3-phenylpropan-1-amine and 3-(isoindoline-2-carboxamido)propanoic acid for 4-(isoindoline-2-carboxamido)benzoic acid. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.11 (ddd, J=4.9, 2.0, 0.8 Hz, 1H), 7.53 (ddd, J=8.7, 7.0, 1.9 Hz, 1H), 7.25-7.34 (m, 4H), 6.83 (d, J=8.6 Hz, 1H), 6.65 (ddd, J=7.1, 4.9, 0.8 Hz, 1H), 6.37 (t, J=5.6 Hz, 1H), 4.57 (s, 4H), 3.44-3.61 (m, 8H), 3.28-3.37 (m, 2H), 2.54-2.61 (m, 2H); MS (ESI(+)) m/e 380 (M+H)+.

reactant | 3-phenylpropan-1-amine | C1(=CC=CC=C1)CCCN | C9H13N
reactant | 3-(isoindoline-2-carboxamido)propanoic acid | C1N(CC2=CC=CC=C12)C(=O)NCCC(=O)O | C12H14N2O3
reactant | 4-(isoindoline-2-carboxamido)benzoic acid | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(C(=O)O)C=C1 | C16H14N2O3
product | N-{3-oxo-3-[4-(pyridin-2-yl)piperazin-1-yl]propyl}-1,3-dihydro-2H-isoindole-2-carboxamide | O=C(CCNC(=O)N1CC2=CC=CC=C2C1)N1CCN(CC1)C1=NC=CC=C1 | C21H25N5O2
